US04532252
4-(5-Bromo-3-methylpyrid-2-yl)-butylamine (0.73 g) and 3-methylthiobenzothiadiazine-1,1-dioxide (0.68 g) were fused at 130°-140° C. for 3 hours. The product was crystallised from acetonitrile to yield 3-[4-(5-bromo-3-methylpyrid-2-yl)-butylamino]benzothiadiazine-1,1-dioxide m.p. 187°-8° C.

reactant | 4-(5-Bromo-3-methylpyrid-2-yl)-butylamine | 0.73 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
reactant | 3-methylthiobenzothiadiazine-1,1-dioxide | 0.68 g | CSN1NS(C2=C(C1)C=CC=C2)(=O)=O | C8H10N2O2S2
product | 3-[4-(5-bromo-3-methylpyrid-2-yl)-butylamino]benzothiadiazine-1,1-dioxide | BrC=1C=C(C(=NC1)CCCCNN1NS(C2=C(C1)C=CC=C2)(=O)=O)C | C17H21BrN4O2S
